US04005217
2-Chloroethyl chloroformate (14.3 g; 0.10 mole) was added dropwise to a stirred suspension of potassium thiocyanate (11.7 g; 0.12 mole) in dry acetonitrile (100 ml). The temperature of the reaction mixture rose spontaneously to 40° C. and stirring was continued for two hours at 30° C. to 40° C. The reaction mixture was then filtered and the clear filtrate was added dropwise during fifteen minutes to a stirred suspension of o-phenylenediamine (10.8 g; 0.10 mole) in dry acetonitrile (50 ml), the temperature during the addition being maintained between 15°C. and 20° C. by external cooling. When the addition was complete the reaction mixture was stirred at 30° to 40° C. for two hours, and poured into water (1litre). The crude solid which separated was filtered off, washed with water and crystallised from methanol to give 1-(2-chloroethoxycarbonyl)-3-(2-aminophenyl)thiourea (14.9 g), m.p. 173°-174°C. (with decomposition).

reactant | 2-Chloroethyl chloroformate | 0.10 mole, 14.3 g | ClC(=O)OCCCl | C3H4Cl2O2
reactant | potassium thiocyanate | 0.12 mole, 11.7 g | [S-]C#N.[K+]
reactant | o-phenylenediamine | 0.10 mole, 10.8 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | water | 1litre | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(2-chloroethoxycarbonyl)-3-(2-aminophenyl)thiourea | 14.9 g | ClCCOC(=O)NC(=S)NC1=C(C=CC=C1)N | C10H12ClN3O2S
